US07235559B1
Platinum oxide (50 mg, 0.22 mmol) was added to a solution of 2-(N-pentanoyl)amino-5-nitropyrimidine (650 mg, 2.9 mmol) in ethanol (100 ml) at ambient temperature and the reaction stirred for 1 hour under an atmosphere of hydrogen. The reaction was filtered through a pad of celite and the solvents were evaporated in vacuo. Trituration with diethylether and drying yielded 2-(N-pentanoyl)amino-5-aminopyrimidine (307 mg, 55% yield) as brown solid:

reactant | 2-(N-pentanoyl)amino-5-nitropyrimidine | 2.9 mmol, 650 mg | C(CCCC)(=O)NC1=NC=C(C=N1)[N+](=O)[O-] | C9H12N4O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Platinum oxide | 0.22 mmol, 50 mg | [Pt]=O
product | 2-(N-pentanoyl)amino-5-aminopyrimidine | 307 mg, 55% yield | C(CCCC)(=O)NC1=NC=C(C=N1)N | C9H14N4O
